US07514400B2
3β-Cholest-5-en-3-yl methanesulfonate.
A solution of cholesterol (19.3 g, 50.0 mmol) in anhydrous CH2Cl2 (250 mL) was cooled to 4° C. by ice-water bath. To this solution, triethylamine (13.9 mL, 100.0 mmol) was added, followed by the dropwise addition of methanesulfonyl chloride (4.3 mL, 55 mmol) in anhydrous CH2Cl2 (50 mL). The reaction was maintained at 4° C. and stirred for 3 h. When the cholesterol was consumed as analyzed by TLC (hexanes/ethyl acetate, 5:1), the solvent was removed in vacuo. The resulting residue was redissolved in CH2Cl2 (15 mL), the product was precipitated by addition of MeOH (150 mL), and the product collected by vacuum filtration. The solid was washed with MeOH (30 mL) and dried under vacuum to yield the product (23.0 g, 99.0%) as a white solid, mp 119-120° C.; 1H NMR (300 MHz, CDCl3) δ 5.41 (s, 1H), 4.56-4.45 (m, 1H), 3.00 (s, 3H), 2.57-2.43 (m, 2H), 2.04-0.81 (m, 38H), 0.67 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 138.6, 123.7, 81.9, 56.5, 56.0, 49.9, 42.2, 39.6, 39.4, 39.1, 38.7, 36.8, 36.3, 36.1, 35.7, 31.8, 31.7, 28.9, 28.1, 27.9, 24.2, 23.8, 22.8, 22.5, 20.9, 19.1, 18.6, 11.8; IR (film) ν max 3029, 2944, 2908, 2861, 1468, 1440, 1415, 1353, 1330, 1173 cm−1; ESI+ m/z ((MNa)+ 487.3237, C28H48O3SNa requires 487.3222).

reactant | cholesterol | 50.0 mmol, 19.3 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | triethylamine | 100.0 mmol, 13.9 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 55 mmol, 4.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3β-Cholest-5-en-3-yl methanesulfonate | 23.0 g, 99.0% | CS(=O)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C28H48O3S
